US05112977
2,3-Dimethoxy-naphthacene-5,12-dione
1 g (3.4 mmol) of 2,3-difluoro-naphthacene-5,12-dione, 0.94 g (6.8 mmol) of K2CO3, 2.18 g of methanol and 20 ml of DMSO are stirred at 110° C. for 22 hours. The mixture is poured onto dilute hydrochloric acid. The product is filtered off, washed four times with water, dried and recrystallized from CH2Cl2 /pentane; yield 0.72 g (67%); melting point >250° C.

reactant | 2,3-difluoro-naphthacene-5,12-dione | 3.4 mmol, 1 g | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1F)=O)=O | C18H8F2O2
reactant | K2CO3 | 6.8 mmol, 0.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methanol | 2.18 g | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 2,3-Dimethoxy-naphthacene-5,12-dione | COC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1OC)=O)=O | C20H14O4
